US09062004B2
POCl3 (0.9 mL, 9.75 mmol) was slowly added to precooled (0° C.), anhydrous DMF (5 mL). After stirring at room temperature for 30 min, a solution of 5-dimethylamino-2-(3,3,5,5-tetramethyl-cyclohexyl)-2H-pyridazin-3-one (749 mg, 2.70 mmol) in anhydrous DMF (6 mL) was added and the mixture was stirred at 70° C. for 1.5 h. After cooling, the mixture was poured over saturated NaHCO3/ice. The aqueous layer was extracted with EtOAc (2×20 mL). The combined organics were dried (Na2SO4), filtered and evaporated in vacuo to provide 5-dimethylamino-3-oxo-2-(3,3,5,5-tetramethyl-cyclohexyl)-2,3-dihydro-pyridazine-4-carbaldehyde (1.19 g, 100%) as a white solid. 1H NMR (300 MHz, CDCl3) δ 10.33 (1H, s), 7.80 (1H, s), 5.27 (1H, app tt, J=3.7, 11.7 Hz), 3.13 (6H, s), 1.63-1.44 (4H, m), 1.30 (2H, app t, J=11.0 Hz), 1.16 (6H, s), 0.98 (6H, s).

reactant | POCl3 | 9.75 mmol, 0.9 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 5-dimethylamino-2-(3,3,5,5-tetramethyl-cyclohexyl)-2H-pyridazin-3-one | 2.70 mmol, 749 mg | CN(C1=CC(N(N=C1)C1CC(CC(C1)(C)C)(C)C)=O)C | C16H27N3O
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-dimethylamino-3-oxo-2-(3,3,5,5-tetramethyl-cyclohexyl)-2,3-dihydro-pyridazine-4-carbaldehyde | 1.19 g, 100% | CN(C1=C(C(N(N=C1)C1CC(CC(C1)(C)C)(C)C)=O)C=O)C | C17H27N3O2
